US08541596B2
N-(4-Ethylbenzyl)-N-((benzo[c][1,2,5]thiadiazol-6-yl)methyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from N-(4-ethylbenzyl)benzimidazol-5-amine (251 mg; 1 mmol; 1 eq.), (benzo-[c][1,2,5]-thiadiazol-6-yl)methylbromide (252 mg; 1.1 mmol; 1.1 eq.) and K2CO3 (152 mg; 1.1 mmol; 1.1 eq.) according to method 6; Yield: 0.115 g (28.8%); MS m/z: 400.2 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 1.14 (t, 3H, 3J=7.6 Hz); 2.55 (q, 2H, 3J=7.6 Hz); 4.73 (s, 2H); 4.87 (s, 2H); 6.77-6.81 (m, 2H); 7.15 (d, 2H, 3J=7.9 Hz); 7.22 (d, 2H, 3J=7.9 Hz), 7.34 (d, 1H, 3J=8.5 Hz); 7.69 (dd, 1H, 4J=1.5 Hz, 3J=9.2 Hz); 7.85 (s, 1H); 7.90 (s, 1H); 8.05 (d, 1H, 3J=8.9 Hz), 11.93 (br s, 1H); HPLC (METHOD [A]): rt 17.72 min (96.4%)

reactant | N-(4-ethylbenzyl)benzimidazol-5-amine | 1 mmol, 251 mg, 1 eq. | C(C)C1=CC=C(CNC2=CC3=C(N=CN3)C=C2)C=C1 | C16H17N3
reactant | (benzo-[c][1,2,5]-thiadiazol-6-yl)methylbromide | 1.1 mmol, 252 mg, 1.1 eq. | N=1SN=C2C1C=C(C=C2)CBr | C7H5BrN2S
reactant | K2CO3 | 1.1 mmol, 152 mg, 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N-(4-Ethylbenzyl)-N-((benzo[c][1,2,5]thiadiazol-6-yl)methyl)-1H-benzo[d]imidazol-5-amine | C(C)C1=CC=C(CN(C2=CC3=C(NC=N3)C=C2)CC=2C=CC=3C(=NSN3)C2)C=C1 | C23H21N5S
